US07629346B2
5-(Cyclopropyl-methyl-amino)-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
To a solution of 0.052 g of 5-bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide in 2 ml dimethylsulfoxide was added at room temperature 0.024 g of cyclopropyl-methyl-amine hydrochloride and 0.04 ml N-ethyldiisopropylamine. The mixture was stirred at room temperature for 72 hours. The reaction mixture was partitioned between 10% aqueous citric acid and ethyl acetate. The phases were separated and the organic layer washed with 10% aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel to yield 0.033 g (61% yield) of the title compound as colorless oil. MS (ISP) (M+H+)=451.1.

reactant | 5-bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | 0.052 g | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)OC(F)(F)F | C18H17BrF3N3O3
reactant | cyclopropyl-methyl-amine hydrochloride | 0.024 g | Cl.C1(CC1)NC
reactant | N-ethyldiisopropylamine | 0.04 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 5-(Cyclopropyl-methyl-amino)-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | 0.033 g, 61% yield | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)N(C)C1CC1)C1=CC=C(C=C1)OC(F)(F)F | C22H25F3N4O3
